US06369075B1
2-Benzyloxy-3-methoxybenzoic acid methyl ester
To a solution of methyl 3-methoxysalicylate (1.0 g, 5.49 mmol) in 5 ml tetrahydrofuran and 5 ml dimethylformamide was added sequentially at room temperature, benzyl alcohol (0.71 ml, 6.86 mmol), triphenylphosphine (2.16 g, 8.23 mmol) and diethyl azodicarboxylate (1.3 ml, 8.23 mmol). The reaction solution was stirred at room temperature overnight, then ethyl acetate was added and the resulting solution was washed sequentially with water and brine. The ethyl acetate solution was dried over anhydrous sodium sulfate and concentrated to dryness in vacuo. The residue was triturated with diethyl ether and filtered to remove triphenylphosphine oxide. The ether solution was concentrated to dryness in vacuo and the residue was purified by column chromatography on silica gel, eluting with 95:5 hexane/ethyl acetate, yielding the title compound as an oil (870 mg 58% yield). MS (M+1)+273.1

reactant | methyl 3-methoxysalicylate | 5.49 mmol, 1.0 g | COC1=C(C(C(=O)OC)=CC=C1)O | C9H10O4
reactant | benzyl alcohol | 6.86 mmol, 0.71 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | triphenylphosphine | 8.23 mmol, 2.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 8.23 mmol, 1.3 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Benzyloxy-3-methoxybenzoic acid methyl ester | 870 mg, 58% yield | COC(C1=C(C(=CC=C1)OC)OCC1=CC=CC=C1)=O | C16H16O4
